US05985849
5-((3-(3,4-Dichlorophenoxy)phenyl)hydroxymethyl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine was prepared from 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine according to the method of Example 1 step (i) (using 3-(3,4-dichlorophenoxy)benzaldehyde instead of benzophenone) as a colourless foam.

reactant | 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | CC(C)(C)[Si](O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C=C1)(C)C | C27H54N2O6Si3
reactant | 3-(3,4-dichlorophenoxy)benzaldehyde | ClC=1C=C(OC=2C=C(C=O)C=CC2)C=CC1Cl | C13H8Cl2O2
product | 5-((3-(3,4-Dichlorophenoxy)phenyl)hydroxymethyl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | ClC=1C=C(OC=2C=C(C=CC2)C(C=2C(NC(N([C@H]3[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O3)C2)=O)=O)O)C=CC1Cl | C40H62Cl2N2O8Si3
